US07851473B2
(2) tert-Butyl 4-[(pyridin-3-ylamino)carbonyl]piperazine-1-carboxylate
A solution of 2,2,2-trichloroethyl pyridin-3-ylcarbamate (15.0 g, 55.7 mmol), 1-(tert-butoxycarbonyl)piperazine (15.5 g, 83.5 mmol), diisopropylethylamine (9.70 ml, 55.7 mmol) and dimethylsulfoxide (300 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate to obtain the desired product (5.74 g, 33.6%) as a solid.

reactant | 2,2,2-trichloroethyl pyridin-3-ylcarbamate | 55.7 mmol, 15.0 g | N1=CC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-(tert-butoxycarbonyl)piperazine | 83.5 mmol, 15.5 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | diisopropylethylamine | 55.7 mmol, 9.70 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 300 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | tert-Butyl 4-[(pyridin-3-ylamino)carbonyl]piperazine-1-carboxylate | 5.74 g, 33.6% | N1=CC(=CC=C1)NC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C15H22N4O3
